US07384974B2
Next, 1.4 mL of triethylamine was added dropwise to a 10 mL ethanol solution of 0.9 g of 2,5-dihydroxy-2,5-dimethyl-1,4-dithiane, and the system was stirred for 30 minutes at room temperature. To this was added at room temperature a 10 mL ethanol solution of the 1-chloro-2-formyl-3,4-dihydronaphthalene obtained previously, and the system was refluxed under heating overnight. After the reaction, reduced-pressure solvent distillation was performed, first water and then 2M a sodium hydroxide aqueous solution were added under ice cooling, and extraction was performed with ethyl acetate. The organic layer was washed first with a saturated ammonium chloride aqueous solution and then with saturated brine, dried with magnesium sulfate, and subjected to reduced-pressure solvent distillation, and the residue was refined by silica gel column chromatography (20% ethyl acetate/hexane) and then recrystallized with ethanol to obtain 1.6 g of 2-acetyl-4,5-dihydro-6,8-dimethylnaphtho[1,2-b]thiophene (Table 6-1) in the form of yellow crystals.

reactant | triethylamine | 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | 2,5-dihydroxy-2,5-dimethyl-1,4-dithiane | 0.9 g | OC1(SCC(SC1)(C)O)C | C6H12O2S2
reactant | 1-chloro-2-formyl-3,4-dihydronaphthalene | ClC1=C(CCC2=CC=CC=C12)C=O | C11H9ClO
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | water | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-acetyl-4,5-dihydro-6,8-dimethylnaphtho[1,2-b]thiophene | 1.6 g | C(C)(=O)C1=CC2=C(S1)C1=CC(=CC(=C1CC2)C)C | C16H16OS
